US07109226B2
Synthesis of Ethyl 2-(3-formylphenoxy)butyrate
3-Hydroxybenzaldehyde (18.3 g, 0.150 mol) was dissolved in N,N-dimethylformamide (150 mL). Subsequently, potassium carbonate (22.80 g, 0.165 mol), and then ethyl 2-bromobutyrate (29.26 g, 0.150 mol) were added thereto, and the resultant mixture was stirred overnight at 80° C. The temperature of the reaction mixture was returned to room temperature. Ethyl acetate was added. Washing was performed sequentially with water and brine, followed by drying over sodium sulfate. The reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (n-hexane/ethyl acetate=5/1), whereby a colorless oil was obtained (35.29 g, 0.149 mol, 99.6%).

reactant | 3-Hydroxybenzaldehyde | 0.150 mol, 18.3 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 0.165 mol, 22.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromobutyrate | 0.150 mol, 29.26 g | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-formylphenoxy)butyrate | C(=O)C=1C=C(OC(C(=O)OCC)CC)C=CC1 | C13H16O4
